US07138425B2
e) 2-(3-Nitrophenyl)benzoxazole-7-carboxylic acid
Prepared by the method of Example 76c), from 2-(3-nitrophenyl)benzoxazole-7-carboxylic acid methyl ester (600 mg, 2.01 mmol) and lithium hydroxide (240 mg, 10.06 mmol) the subtitle compound was obtained, (442 mg, 77%). The product was used directly in next step without purification.

reactant | 2-(3-nitrophenyl)benzoxazole-7-carboxylic acid methyl ester | 2.01 mmol, 600 mg | COC(=O)C1=CC=CC=2N=C(OC21)C2=CC(=CC=C2)[N+](=O)[O-] | C15H10N2O5
reactant | lithium hydroxide | 10.06 mmol, 240 mg | [OH-].[Li+]
product | 2-(3-Nitrophenyl)benzoxazole-7-carboxylic acid | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H8N2O5
